US09388173B2
Step 1: 1-((3-bromophenyl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
To a stirred mixture of 3-bromoaniline (300 mg, 1.75 mmol) in EtOH (10 mL) was added 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (331 mg, 1.75 mmol). The mixture was stirred at 80° C. for 16 hours. The reaction mixture was concentrated. The residue was purified by prep-TLC to afford the desired compound (120 mg). LCMS (m/z): 361.1/362.1 [M+H]+/[M+2H]+

reactant | 3-bromoaniline | 1.75 mmol, 300 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 1.75 mmol, 331 mg | O1C(C1)CN1CC2=CC=CC=C2CC1 | C12H15NO
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-((3-bromophenyl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 120 mg | BrC=1C=C(C=CC1)NCC(CN1CC2=CC=CC=C2CC1)O | C18H21BrN2O
